Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
melanoma
 
Major Surgical or Invasive Procedure:
melanoma excision w/ take back for hematoma evacuation

 
History of Present Illness:
___ is a ___ within the
multi-disciplinary Cutaneous Oncology program of the ___
who presented for excision of invasive melanoma of
the left upper back.  She is now retired from
her work as an in-house ___, who also at one
point was a ___.  She now cares for her
two grandchildren, age ___ and ___.  Her husband unfortunately has
dementia and is in an assisted living facility. 

___ has a previous history of stage IIIC melanoma arising in the
right cheek as described below in year ___, and she has been
followed closely within our Program since that time.  In that
context, she was examined by my colleague in Dermatology, Dr.
___ at the time of a routine appointment on ___. 

Punch biopsy was made of an atypical appearing pigmented lesion
of the left upper back.  The pathology has returned showing a
0.61 mm thick, ___ level IV invasive melanoma with an
epithelioid morphology.  One mitosis was seen per mm2.  There 
was
no ulceration or lymphovascular invasion.  The lesion was HMB-45
positive.  Tumor was present at the peripheral margin.
 
Past Medical History:
Aside from the previous melanoma, ___ is otherwise quite 
healthy.
She has hypercholesterolemia, osteopenia, and a history of
constipation occurring over the past several months.  However,
she states that she underwent colonoscopy at an outside facility
one month ago without any specific findings.  She had a history
of transient hypothyroidism attributed to her earlier interferon
therapy, which has now resolved.  She has a history of
incontinence and underwent a bladder sling procedure with good
results.  She states that she had a recent echocardiogram
performed for perhaps a "long QT interval."  She has no known
cardiac history.  I did not have the results available.
 
Social History:
___
Family History:
___ family history is significant for a maternal aunt who had
breast cancer occurring at age ___.  A paternal uncle had
pancreatic cancer.  Her father had a basal cell carcinoma.  She
is not aware of any family members with melanoma.  She has two
children who are well.  There is no known history of early heart
disease.
 
Physical Exam:
VSS
Gen: NAD, AOX3
CV: RRR
P:unlabored breathing
GI: NTND
Wound: L upper back longitudinal incision covered w/ dressing, 
c/d/I; JP drain in place w/ serosanguinous drainage
Ext: WWP
 
Brief Hospital Course:
Pt is a ___ w/ melanoma of the L upper back who presented on 
___ for outpatient excision of her melanoma. On the day of 
surgery, there was no interval change o initial H&P. Her surgery 
was uncomplicated and she tolerated the procedure well. Her 
hospital course was complicated by enlarging hematoma 
surrounding her surgical site requiring take back to the OR for 
subsequent hematoma evacuation. There was no noted bleeding 
vessels at the time of hematoma evacuation. At that time, a JP 
drain was placed. For full details, please see Op Report. She 
remained in house overnight for continued hemodynamic monitoring 
and she remained HDS. On the day of discharge, her pain was well 
controlled, her dressing was c/d/i, she was tolerating a regular 
diet, ambulating independently, and had no signs of hematoma 
surrounding her surgical site dressing. She was discharged w/ a 
JP drain and will have f/u on ___ for drain removal and 
___ for suture removal.
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four to six hours 
Disp #*10 Tablet Refills:*0 
3.  Lovastatin 40 mg oral DAILY daily  
4.  Oxybutynin 10 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
melanoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care:  
1. You may keep your incisions open to air or covered with a 
clean, sterile gauze that you change daily.
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.  
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.  
4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. your drains will be 
removed on ___ when the daily output tapers off to an 
acceptable amount.  
5. You may not shower while drain is in place. 
 
Activity:  
1. You may resume your regular diet.  
2. Walk several times a day.  
 
Medications:  
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .  
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol.  
3. Take prescription pain medications for pain not relieved by 
Tylenol.  
    
Call the office IMMEDIATELY if you have any of the following:  
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.  
  
Return to the ER if:  
* If you are vomiting and cannot keep in fluids or your 
medications.  
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
* Any serious change in your symptoms, or any new symptoms that 
concern you.  
DRAIN DISCHARGE INSTRUCTIONS  
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.  
Please assist patient with drain care. A daily log of individual 
drain outputs should be maintained and brought with patient to 
follow up appointment with your surgeon.

 
Followup Instructions:
___